US07799818B2
Potassium ethyl malonate (10.2 g, 60 mmol), MgCl2 (6.3 g, 66 mmol), and triethylamine (28 ml, 200 mmol) were suspended in dry ethyl acetate (200 ml) and heated to 40° C. for 15 hr. A solution of 2-fluoro-5-trifluoromethylbenzoyl chloride (10 g, 44.1 mmol) in ethyl acetate (40 ml) was dropped in slowly (in about one hour). After another hour, the mixture was treated with 2N HCl (200 ml). The organic layer was washed with 0.5 N HCl 2×, 5% K2CO3 2×, brine 2×, and dried over Na2SO4. Evaporation of the solvent and vacuum drying afforded ethyl 3-[2-fluoro-5-(trifluoromethyl)phenyl]-3-oxopropanoate as a pale yellow oil. NMR (500 MHz, CDCl3) δ: 1.25 (t, J=7.4 Hz, 3H); 1.32*; 4.00 (d, JF-H=3 Hz, 2H); 4.21 (q, J=7.4 Hz, 2H); 5.8*; 7.22*; 7.29 (t, J=10.3 Hz, 1H); 7.66*; 7.82 (br, 1H); 8.14*; 8.24 (d, J=6.4 Hz, 1H). Enol form* exists in about 35%.

reactant | Potassium ethyl malonate | 60 mmol, 10.2 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | MgCl2 | 66 mmol, 6.3 g | [Mg+2].[Cl-].[Cl-]
reactant | triethylamine | 200 mmol, 28 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-trifluoromethylbenzoyl chloride | 44.1 mmol, 10 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
reactant | HCl | 2N, 200 ml | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[2-fluoro-5-(trifluoromethyl)phenyl]-3-oxopropanoate | FC1=C(C=C(C=C1)C(F)(F)F)C(CC(=O)OCC)=O | C12H10F4O3
